US08283353B2
2-methyl-4-(1-methyl-2-oxopropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (2.7 g), sodium hydrogen carbonate (4.4 g) and dimethyl sulfoxide (25 mL) was stirred at 50° C. for 30 min, 4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.5 g) was added, and the mixture was stirred at 90° C. for 20 hr. After allowing to cool to room temperature, the reaction mixture was extracted with ethyl acetate and water, and the organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography, and dissolved in tetrahydrofuran (30 mL). N,N′-Carbonyldiimidazole (0.51 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.43 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (30 mL). Tetrabutylammonium fluoride (1 M tetrahydrofuran solution, 6.6 mL) was added, and the mixture was stirred at room temperature for 3 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel column chromatography was dissolved in acetonitrile (20 mL), Dess-Martin reagent (1.1 g) was added, and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from acetone and hexane to give the title compound as colorless crystals (0.5 g, 37%).

reactant | hydroxylammonium chloride | 2.7 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 4.4 g | C(O)([O-])=O.[Na+]
reactant | 4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.5 g | [Si](C)(C)(C(C)(C)C)OC(C(C)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C | C33H43N5O2Si
reactant | Dess-Martin reagent | 1.1 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 2-methyl-4-(1-methyl-2-oxopropyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.5 g, 37% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)C(C(C)=O)C)=N1 | C28H28N6O4
